US05559111
h) 2(R)-Isopropyl-3-(3-benzyloxy-4-tert-butyl-phenyl)-propanol
At room temperature with stirring, to a solution of 5.65 g of 2(R)-isopropyl-3-(3-hydroxy-4-tert-butyl-phenyl)-propanol in 100 ml of dimethylformamide there are added 11 g of caesium carbonate and, dropwise, a solution of 3.2 ml of benzyl bromide in 20 ml of dimethylformamide. The reaction mixture is stirred at room temperature for a further 16 hours and then concentrated by evaporation, and the residue is partitioned between diethyl ether and water. The organic phases are concentrated by evaporation and the residue is purified by FC (90 g of silica gel, dichloromethane/hexane=9:1), yielding the title compound: Rf (dichloromethane/hexane=9:1)=0.44.

reactant | 2(R)-isopropyl-3-(3-hydroxy-4-tert-butyl-phenyl)-propanol | 5.65 g | C(C)(C)[C@H](CO)CC1=CC(=C(C=C1)C(C)(C)C)O | C16H26O2
reactant | caesium carbonate | 11 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 3.2 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2(R)-Isopropyl-3-(3-benzyloxy-4-tert-butyl-phenyl)-propanol | C(C)(C)[C@H](CO)CC1=CC(=C(C=C1)C(C)(C)C)OCC1=CC=CC=C1 | C23H32O2
